US05350748
Monomethylamine gas is passed into a room temperature solution of 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxamide-1-oxide (250 mg, 0.89 mmol) [Boschelli, et al., U.S. Pat. No. 5,208,253 (1993)] in acetonitrile. A precipitate forms almost immediately and stirring is continued for 30 minutes. The solid is collected and dried to provide 5-methoxy-3-(methylamino)benzo[b]thiophene-2-carboxamide-1-oxide in 86% yield; mp=244°-244.5° C. dec.

reactant | Monomethylamine | CN | CH5N
reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxamide-1-oxide | 0.89 mmol, 250 mg | COC1=CC2=C(S(C(=C2OC(C)C)C(=O)N)=O)C=C1 | C13H15NO4S
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-methoxy-3-(methylamino)benzo[b]thiophene-2-carboxamide-1-oxide | 86% yield | COC1=CC2=C(S(C(=C2NC)C(=O)N)=O)C=C1 | C11H12N2O3S
